US07557213B2
Experimental conditions analogous to those described for Step 1 of Example 1 were used with 0.60 g (2.27 mmol) of 3-ethoxy-2-(4-methoxy-3-methyl-benzoyl)-acrylic acid methyl ester, 0.214 g (2.27 mmol) of 3-aminopyridine, and 15 mL of diphenyl ether to yield 0.435 g of 3-(4-Methoxy-3-methyl-benzoyl)-1H-[1,5]naphthyridin-4-one.

reactant | 3-ethoxy-2-(4-methoxy-3-methyl-benzoyl)-acrylic acid methyl ester | 2.27 mmol, 0.60 g | COC(C(=COCC)C(C1=CC(=C(C=C1)OC)C)=O)=O | C15H18O5
reactant | 3-aminopyridine | 2.27 mmol, 0.214 g | NC=1C=NC=CC1 | C5H6N2
reactant | diphenyl ether | 15 mL | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
product | 3-(4-Methoxy-3-methyl-benzoyl)-1H-[1,5]naphthyridin-4-one | 0.435 g | COC1=C(C=C(C(=O)C2=CNC3=CC=CN=C3C2=O)C=C1)C | C17H14N2O3
